US07557114B2
(a) 3-Acetyl-5-trifluoromethyl-pyridine-2-carboxylic acid diisopropylamide
Prepared in analogy to Example A17(b) from 5-Trifluoromethyl-pyridine-2-carboxylic acid diisopropylamide (CAS: 765298-31-5) and N-methoxy-N-methylacetamide instead of dimethylformamide. Orange solid. MS (m/e): 317.1 ([M+H]+, 100%)

reactant | 5-Trifluoromethyl-pyridine-2-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C1=NC=C(C=C1)C(F)(F)F)C(C)C | C13H17F3N2O
reactant | N-methoxy-N-methylacetamide | CON(C(C)=O)C | C4H9NO2
product | 3-Acetyl-5-trifluoromethyl-pyridine-2-carboxylic acid diisopropylamide | C(C)(C)N(C(=O)C1=NC=C(C=C1C(C)=O)C(F)(F)F)C(C)C | C15H19F3N2O2
